US09382237B2
Synthesis of 3-((3-chlorophenyl)amino)-5-(((2-chloropyridin-3-yl)methyl)amino)-1H-pyrazole-4-carbonitrile C28
Dissolved 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carbonitrile (58 mg) in 4 mL ethanol and added 0.250 mmol of 2-chloronicotinaldehyde followed by a single drop of piperidine. This solution was then heated to 85° C. for 17 hrs, then the ethanol was evaporated and the resulting product was scraped from the reaction vessels. The powder was then resuspended in 4 mL of MeOH and 3 eq. of sodium borohydride was added and left stirring overnight at room temperature. Then MeOH was then evaporated and the product C28 was scraped and collected. (100 mg)

reactant | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carbonitrile | 58 mg | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C#N | C10H8ClN5
reactant | 2-chloronicotinaldehyde | 0.250 mmol | ClC1=C(C=O)C=CC=N1 | C6H4ClNO
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium borohydride | 3 eq. | [BH4-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | MeOH | 4 mL | CO | CH4O
product | 3-((3-chlorophenyl)amino)-5-(((2-chloropyridin-3-yl)methyl)amino)-1H-pyrazole-4-carbonitrile | ClC=1C=C(C=CC1)NC1=NNC(=C1C#N)NCC=1C(=NC=CC1)Cl | C16H12Cl2N6
